US03931239
A solution of 4,5-dimethyl-6-oxo-7-bromo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid (0.70 g., 0.0019 mole) and 1,5-diazabicyclo-[4.3.0]-5-one (0.5 ml.) in dimethylsulfoxide (5 ml.) is stirred at 25°C. in an inert atomsphere for 1 1/2 hours, treated with water (15 ml.) acidified with hydrochloric acid, extracted with ether washed with water and dried over magnesium sulfate. The ether is evaporated at reduced pressure and the crude product crystallized from nitromethane (10 ml.) affording 4,5-dimethyl-6-oxo-7-propyl-1,2-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid as a red solid which melts at 212°C.

reactant | 4,5-dimethyl-6-oxo-7-bromo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.0019 mole, 0.70 g | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)(CCC)Br)=O)C | C17H19BrO4
reactant | water | 15 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 4,5-dimethyl-6-oxo-7-propyl-1,2-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid | CC1=C(C=2C(C(=CC2C2=C1OC(C2)C(=O)O)CCC)=O)C | C17H18O4
